US08003796B2
Step D3. Preparation of 1-(4-(methylthio)phenyl)-4-(piperidin-4-yloxy)pyridin-2(1H)-one
To a stirring solution of benzyl 4-(1-(4-(methylthio)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate (367 mg, 0.815 mmol) in CH2Cl2 (5 mL) at 0° C. was added iodotrimethylsilane (0.33 mL, 2.4 mmol, Aldrich). The reaction was stirred for 40 min and then quenched at 0° C. with HCl (1N in H2O, 5 mL). To the resulting mixture was diluted with CH2Cl2 and extracted with H2O. The H2O layer was basified with NaOH (1N in H2O, 10 mL) and extracted with CH2Cl2 (2×). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to yield 189 mg crude product as an off-white solid. MS (ESI) 317 (M+H).

reactant | benzyl 4-(1-(4-(methylthio)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 0.815 mmol, 367 mg | CSC1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C25H26N2O4S
reactant | iodotrimethylsilane | 2.4 mmol, 0.33 mL | I[Si](C)(C)C | C3H9ISi
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(methylthio)phenyl)-4-(piperidin-4-yloxy)pyridin-2(1H)-one | 189 mg | CSC1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCNCC1)=O | C17H20N2O2S
